US04075210
6-Chloropyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one
205 g. of 4,6-dichloropyridine-3-carboxylic acid, methyl ester and 166 g. of 5-aminopyrazole are refluxed together in 300 ml. of acetic acid for 10 hours with stirring. The crystalline 6-chloropyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one is filtered off, washed with water and recrystallized from dimethylformamide, yield: 185 g. (84%); m.p. > 300°.

reactant | 4,6-dichloropyridine-3-carboxylic acid, methyl ester | ClC1=C(C=NC(=C1)Cl)C(=O)OC | C7H5Cl2NO2
reactant | 5-aminopyrazole | NC1=CC=NN1 | C3H5N3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Chloropyrazolo[1,5-a]pyrido[4,3-d]pyrimidin-9(4H)-one | ClC1=CC=2NC=3N(C(C2C=N1)=O)N=CC3 | C9H5ClN4O
